US04183933
To a solution of 30.2 g (0.20 mole) of β-ethylaminoethylpyrazine in 240 ml of benzene and 56 ml (0.40 mole) of triethylamine was added dropwise over a period of 15 minutes 22.9 g (0.21 mole) of ethyl chloroformate. The mixture was refluxed for 1 hour. It was filtrated and the filtrate concentrated under vacuum. The residue was distilled to give 38.8 g of β-(N-ethoxycarbonylethylamino-ethylpyrazine, b.p. 100°-105° C. at 0.1 mm Hg.

reactant | β-ethylaminoethylpyrazine | 0.20 mole, 30.2 g | C(C)NCCC1=NC=CN=C1 | C8H13N3
reactant | triethylamine | 0.40 mole, 56 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.21 mole, 22.9 g | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 240 ml | C1=CC=CC=C1 | C6H6
product | N-ethoxycarbonylethylamino-ethylpyrazine | C(C)OC(=O)CCNN1C(C=NC=C1)CC | C11H19N3O2
